US07579368B2
A solution of tetrabutylammonium fluoride in tetrahydrofuran (3.45 mL, 3.45 mmol) was added dropwise to a solution of methanol (1.33 mL) and 4,5-bis-(4-chlorophenyl)-2-(2-ethoxy-4-trimethylsilanylethynylphenyl)-4,5-dihydro-1H-imidazole (3.50 g, 6.90 mmol) in tetrahydrofuran (70 mL) cooled in an ice bath. After stirring for 30 min, the reaction mixture was poured into saturated aqueous ammonium chloride (100 mL) and extracted with methylene chloride (300 mL, 2×100 mL). The combined organic phases were dried over magnesium sulfate and evaporated. The residue was purified by flash column chromatography (silica gel, eluting with 2% methanol in chloroform) to give 4,5-bis-(4-chlorophenyl)-2-(2-ethoxy-4-ethynylphenyl)-4,5-dihydro-1H-imidazole as a yellow foam (2.66 g, 89%). LC-MS: 435.2 [(M+H)+].

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methanol | 1.33 mL | CO | CH4O
reactant | 4,5-bis-(4-chlorophenyl)-2-(2-ethoxy-4-trimethylsilanylethynylphenyl)-4,5-dihydro-1H-imidazole | 6.90 mmol, 3.50 g | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C#C[Si](C)(C)C)OCC | C28H28Cl2N2OSi
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.45 mmol, 3.45 mL | O1CCCC1 | C4H8O
product | 4,5-bis-(4-chlorophenyl)-2-(2-ethoxy-4-ethynylphenyl)-4,5-dihydro-1H-imidazole | 2.66 g, 89% | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C#C)OCC | C25H20Cl2N2O
